US06380387B1
A stream of argon was passed through a solution of N-(benzyloxycarbonyl)-4-[[(1,1-dimethylethoxy)carbonyl]amino]-3-methyl-dehydrophenylalanine methyl ester (8.08 mmol, 3.56 g) in methanol (25 mL) in a Parr pressure vessel overnight. Then, the catalyst, (+)-1,2-bis((2S,5S)-2,5-dimethylphospholano)benzene(cyclooctadiene)rhodium (I) trifluoromethanesulfonate [[Rh(COD)(S,S)-(me)DuPHOS]+TfO-] (˜40 mg) was added under a stream of argon in a glove box. The solution was stirred under a hydrogen pressure (60 psi) at room temperature for 22 h. The resulting solution was concentrated and the crude product was purified by silica gel chromatography using a Biotage (40m) column to obtain 2 g (55% yield) of N-(benzyloxycarbonyl)-4-[[(1,1-dimethylethoxy)carbonyl]amino]-3-methyl-L-phenylalanine methyl ester as an amorphous white solid. EI-HRMS m/e calcd for C24H30N2O6 (M+) 442.1627, found 442.1629.

reactant | N-(benzyloxycarbonyl)-4-[[(1,1-dimethylethoxy)carbonyl]amino]-3-methyl-dehydrophenylalanine methyl ester | 8.08 mmol, 3.56 g | COC(C(NC(=O)OCC1=CC=CC=C1)=CC1=CC(=C(C=C1)NC(=O)OC(C)(C)C)C)=O | C24H28N2O6
solvent | methanol | 25 mL | CO | CH4O
product | N-(benzyloxycarbonyl)-4-[[(1,1-dimethylethoxy)carbonyl]amino]-3-methyl-L-phenylalanine methyl ester | 2 g, 55% yield | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)NC(=O)OC(C)(C)C)C)=O | C24H30N2O6
